US09023847B2
27. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-bromo-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(4-bromophenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 442 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.25 (1H, s) 8.17 (1H, t, J=5.47 Hz) 8.02 (1H, d, J=5.47 Hz) 7.77 (1H, d, J=5.47 Hz) 7.46 (1H, d, J=5.47 Hz) 7.44 (2H, d, J=8.20 Hz) 7.32 (1H, d, J=3.32 Hz) 7.18 (2H, d, J=8.20 Hz) 6.80 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.42, 1.85 Hz) 3.40-3.52 (2H, m) 2.80 (2H, t, J=7.22 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(4-bromophenyl)ethylamine | BrC1=CC=C(C=C1)CCN | C8H10BrN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-bromo-phenyl)-ethyl]-amide | BrC1=CC=C(C=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17BrN4OS
